US04271163
6.0 g (24.3 millimoles) of cis-2-(p-acetylaminobenzoyl)-cyclopropanecarboxylic acid, 1.33 g (26.6 millimoles) of hydrazine hydrate and 150 ml of ethanol are refluxed for 6 hours. After filtering off the product at 0° C. and drying it under reduced pressure at 50° C., 5.0 g (85% of theory) of 2-(p-acetylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one are isolated as colorless crystals, melting point 269°-270° C. after recrystallization from a methanol/water mixture.

reactant | cis-2-(p-acetylaminobenzoyl)-cyclopropanecarboxylic acid | 24.3 millimoles, 6.0 g | C(C)(=O)NC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=C1 | C13H13NO4
reactant | hydrazine hydrate | 26.6 millimoles, 1.33 g | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(p-acetylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 5.0 g, 85% | C(C)(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C13H13N3O2
